US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-Isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Add a solution of acetyl chloride (0.13 mL, 1.76 mmol) in absolute ethanol to a solution of (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.14 g, 0.35 mmol) in absolute ethanol and stir. Concentrate under reduced pressure to give the title compound (0.16 g, 94%): mass spectrum (APCI, m/e): 399 (M+1); exact mass spectrum (ES+, m/e, C22H30N4OS.2HCl): calc. 399.2218 (M+1-2HCl), found 399.2226.

reactant | acetyl chloride | 1.76 mmol, 0.13 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.35 mmol, 0.14 g | COCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C(C)C)C=CC=C2 | C22H30N4OS
solvent | ethanol | C(C)O | C2H6O
product | (S)-10-[3-(2-Methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-Isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | 0.16 g, 94% | Cl.Cl.COCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C(C)C)C=CC=C2 | InChI=1S/C22H30N4OS.2ClH/c1-15(2)20-13-17-21(26-11-10-25(3)16(14-26)9-12-27-4)23-18-7-5-6-8-19(18)24-22(17)28-20;;/h5-8,13,15-16,24H,9-12,14H2,1-4H3;2*1H/t16-;;/m0../s1
